US07741354B2
Compound 68: 2-[(1-Cyclopropyl-1H-tetrazol-5-yl)-(3-imidazol-1-yl-propylamino)-methyl]-4-methyl-phenol
3-Imidazol-1-yl-propylamine (1 mmol) and 2-Hydroxy-5-methyl-benzaldehyde (1 mmol) were combined in methanol (2 ml, dry). After 2 hours Trimethylsilylazide (5 mmol) and Isocyano-cyclopropane (mmol) was added. The reaction was stirred at room temperature for 48 h. After evaporation of the solvent the residue was purified with chromatographic methods.

reactant | 3-Imidazol-1-yl-propylamine | 1 mmol | N1(C=NC=C1)CCCN | C6H11N3
reactant | 2-Hydroxy-5-methyl-benzaldehyde | 1 mmol | OC1=C(C=O)C=C(C=C1)C | C8H8O2
reactant | Trimethylsilylazide | 5 mmol | C[Si](C)(C)N=[N+]=[N-] | C3H9N3Si
reactant | Isocyano-cyclopropane | [N+](#[C-])C1CC1 | C4H5N
solvent | methanol | 2 ml | CO | CH4O
product | 2-[(1-Cyclopropyl-1H-tetrazol-5-yl)-(3-imidazol-1-yl-propylamino)-methyl]-4-methyl-phenol | C1(CC1)N1N=NN=C1C(C1=C(C=CC(=C1)C)O)NCCCN1C=NC=C1 | C18H23N7O
